US07208506B2
To a solution of 4-fluoro-2-methyl-benzoic acid (197 mg, 1.27 mmol) and (E)-2-thiophen-2-yl-ethenesulfonic acid amide (155 mg, 0.82 mmol) (which was prepared analogously to example 1-1 steps i) to ii) starting from 2-bromo-thiophene) in dichloromethane (5 mL) and N,N-dimethylformamide (DMF) (2 mL) is added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (EDCI) (277 mg, 1.45 mmol) and 4-(dimethylamino)-pyridine (DMAP) (172 mg, 1.41 mmol) at room temperature (RT). The mixture was stirred at RT for 24 h, and solvent removed under reduced pressure. The crude reaction mixture is partitioned between aq. 1M HCl (25 mL) and ethyl acetate (25 mL). The organic phase is separated and washed with aq. 1M HCl (2×25 mL), and then with sat. aq. K2CO3 solution (3×25 mL) and dried (sodium sulfate) and concentrated in vacuo. After flash chromatography (heptane/ethyl acetate 3:1 to 1:1) ((E)-2-Thiophen-2-yl-ethenesulfonic acid 4-fluoro-2-methyl-benzoylamide can be isolated as a white solid. Yield 65 mg (15%)

reactant | 4-fluoro-2-methyl-benzoic acid | 1.27 mmol, 197 mg | FC1=CC(=C(C(=O)O)C=C1)C | C8H7FO2
reactant | (E)-2-thiophen-2-yl-ethenesulfonic acid amide | 0.82 mmol, 155 mg | S1C(=CC=C1)/C=C/S(=O)(=O)N | C6H7NO2S2
reactant | 2-bromo-thiophene | BrC=1SC=CC1 | C4H3BrS
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 1.45 mmol, 277 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)-pyridine | 1.41 mmol, 172 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (E)-2-Thiophen-2-yl-ethenesulfonic acid 4-fluoro-2-methyl-benzoylamide | FC1=CC(=C(C(=O)NS(=O)(=O)\C=C\C=2SC=CC2)C=C1)C | C14H12FNO3S2
